US05463077
50 cm3 of aqueous 4N sodium hydroxide are slowly added to a suspension of 20 g of (3aRS,7aRS)-7,7-diphenyl-perhydroisoindol-4-one hydrochloride in 250 cm3 of ethyl acetate, while stirring; stirring is continued until the starting substance has disappeared. The organic solution is washed with 100 cm3 of distilled water and with 100 cm3 of a saturated solution of sodium chloride, dried over magnesium sulphate and filtered. A solution of 9.3 g of D-(-)mandelic acid in 50 cm3 of ethyl acetate is added to the solution thus obtained, while stirring. The crystals formed are filtered off, drained, washed with 50 cm3 of ethyl acetate (twice) and dried. The crystals are taken up in a solution of 220 cm3 of acetonitrile and 60 cm3 of distilled water and the mixture is refluxed for 15 minutes, while stirring; the crystals formed are filtered off and recrystallised in a mixture of 100 cm3 of acetonitrile and 35 cm3 of distilled water. 6.4 g of (3aS,7aS)-7,7-diphenyl-perhydroisoindol-4-one D-mandelate are obtained.

reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | (3aRS,7aRS)-7,7-diphenyl-perhydroisoindol-4-one hydrochloride | 20 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | ethyl acetate | 250 cm3 | C(C)(=O)OCC | C4H8O2
product | (3aS,7aS)-7,7-diphenyl-perhydroisoindol-4-one D-mandelate | 6.4 g | C([C@H](O)C1=CC=CC=C1)(=O)O.C1(=CC=CC=C1)C1(CCC([C@@H]2CNC[C@H]12)=O)C1=CC=CC=C1 | InChI=1S/C20H21NO.C8H8O3/c22-19-11-12-20(15-7-3-1-4-8-15,16-9-5-2-6-10-16)18-14-21-13-17(18)19;9-7(8(10)11)6-4-2-1-3-5-6/h1-10,17-18,21H,11-14H2;1-5,7,9H,(H,10,11)/t17-,18+;7-/m11/s1
